US06908939B2
(g) methyl 7-{[4′-(2,4-dioxothiazolidin-5-ylmethyl)biphenyl-3-ylmethyl]methylcarbamoyl}heptanoate
600 mg (1.36 mmol) of 5-(3′-methylaminomethylbiphenyl-4-ylmethyl)thiazolidine-2,4-dione, 10 ml of THF and 600 μl (4.3 mmol) of triethylamine are introduced into a round-bottomed flask and under a nitrogen stream. 220 μl (1.55 mmol) of methyl 8-chloro-8-oxooctanoate are added dropwise and the mixture is stirred for one hour. The reaction medium is poured into water, extracted with dichloromethane, the organic phase decanted off, washed with water, dried over magnesium sulphate and evaporated off. The residue obtained is purified by chromatography on a silica column eluted with a dichloromethane and ethyl acetate (80-20) mixture. After evaporation of the solvents, 350 mg (50%) of methyl 7-{[4′-(2,4-dioxothiazolidin-5-ylmethyl)biphenyl-3-ylmethyl]methylcarbamoyl}heptanoate are recovered in the form of an oil.

reactant | 5-(3′-methylaminomethylbiphenyl-4-ylmethyl)thiazolidine-2,4-dione | 1.36 mmol, 600 mg | CNCC=1C=C(C=CC1)C1=CC=C(C=C1)CC1C(NC(S1)=O)=O | C18H18N2O2S
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | triethylamine | 4.3 mmol, 600 μl | C(C)N(CC)CC | C6H15N
reactant | methyl 8-chloro-8-oxooctanoate | 1.55 mmol, 220 μl | ClC(CCCCCCC(=O)OC)=O | C9H15ClO3
solvent | water | O | H2O
product | methyl 7-{[4′-(2,4-dioxothiazolidin-5-ylmethyl)biphenyl-3-ylmethyl]methylcarbamoyl}heptanoate | O=C1SC(C(N1)=O)CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(=O)CCCCCCC(=O)OC)C | C27H32N2O5S
